US07759469B2
h) 5-[3-(3-Amino-prop-1-ynyl)-5-nitro-indol-1-yl]-2-[bis-(4-methoxy-phenyl)-phenyl-methoxymethyl]-tetrahydro-furan-3-ol
11.0 g (15 mmol) N-[3-(1-{5-[Bis-(4-methoxy-phenyl)-phenyl-methoxymethyl]-4-hydroxy-tetrahydro-furan-2-yl}-5-nitro-1H-indol-3-yl)-prop-2-ynyl]-2,2,2-trifluoro-acetamide were dissolved in 260 ml 7N ammonia solution in methanol (Aldrich, 499145). The solution was maintained at 8° C. for 16 h. The solvent was removed in a vacuum on a rotary evaporator (water bath 38° C.). The residue was chromatographed on a silica gel column (Silica gel 60, Merck, 280×85 mm) with a solvent mixture of ethyl acetate:methanol:toluene 1:1:4 (v/v/v) with 0.2 vol % triethylamine (yield: 6.1 g).

reactant | N-[3-(1-{5-[Bis-(4-methoxy-phenyl)-phenyl-methoxymethyl]-4-hydroxy-tetrahydro-furan-2-yl}-5-nitro-1H-indol-3-yl)-prop-2-ynyl]-2,2,2-trifluoro-acetamide | 15 mmol, 11.0 g | COC1=CC=C(C=C1)C(OC(C1C(CC(O1)N1C=C(C2=CC(=CC=C12)[N+](=O)[O-])C#CCNC(C(F)(F)F)=O)O)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C39H34F3N3O8
solvent | ammonia | 7N, 260 ml | N | H3N
solvent | methanol | CO | CH4O
product | 5-[3-(3-Amino-prop-1-ynyl)-5-nitro-indol-1-yl]-2-[bis-(4-methoxy-phenyl)-phenyl-methoxymethyl]-tetrahydro-furan-3-ol | NCC#CC1=CN(C2=CC=C(C=C12)[N+](=O)[O-])C1CC(C(O1)C(OC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C1=CC=CC=C1)O | C37H35N3O7
